US08349865B2
Step 1: 2-Ethoxy-N,N-diisopropylisonicotinamide
To a solution of 2-ethoxyisonicotinic acid (20 g, 120 mmol) in CH2Cl2 (500 mL) was added oxalyl chloride (10.4 mL) followed by one drop of DMF. The solution was stirred for 2 hr then triethylamine (33.4 mL, 239 mmol) and diisopropyl amine (25 mL, 179 mmol) were added dropwise. The solution was allowed to stir for 12 hr then worked up with CH2Cl2 and sat. NaHCO3. The crude mixture was purified by silica gel chromatography (100% hexanes to 100% EtOAc) to afford the title compound.

reactant | 2-ethoxyisonicotinic acid | 120 mmol, 20 g | C(C)OC=1C=C(C(=O)O)C=CN1 | C8H9NO3
reactant | oxalyl chloride | 10.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 239 mmol, 33.4 mL | C(C)N(CC)CC | C6H15N
reactant | diisopropyl amine | 179 mmol, 25 mL | C(C)(C)NC(C)C | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 2-Ethoxy-N,N-diisopropylisonicotinamide | C(C)OC=1C=C(C(=O)N(C(C)C)C(C)C)C=CN1 | C14H22N2O2
